US06531597B2
15.0 g (50 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid were dissolved in 127.5 ml dichloromethane in the presence of 0.75 ml DMF. 8.76 ml (2 eq.) Oxalyl chloride were added and after 4.5 hours, the solution was rotary evaporated to dryness. 9 ml Toluene were added and the resulting solution was again rotary evaporated, then dried under high vacuum yielding 16.25 g (quant.) of 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride as a yellow oil of 86% purity according to HPLC analysis.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid | 50 mmol, 15.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)(C)C)(F)F | C12H10F6O2
reactant | Oxalyl chloride | 8.76 ml, 2 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 127.5 ml | ClCCl | CH2Cl2
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
product | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 16.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
